Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ yo nullip with ___ ___ by LMP and US now at 40 ___
presenting to rule out labor.  US in triage showed BPP ___ (-2 
for
movement and tone) though AFI normal at 12.2.  Given GA and 
testing results, decision was made to keep pt for monitoring and 
induction/augmentation of labor if no labor.

Notes aFM.  No LOF.  No VB. No UCs.

 
Major Surgical or Invasive Procedure:
s/p cesarean

 
History of Present Illness:
___ yo nullip with ___ ___ by LMP and US now at 40 ___
presenting to rule out labor.  US in triage showed BPP ___ (-2 
for
movement and tone) though AFI normal at 12.2.  Given GA and 
testing results, decision was made to proceed with further 
monitoring and induction/augmentation if no further labor.

Notes aFM.  No LOF.  No VB. No UCs.

 
Past Medical History:
PNC:
1. Dating as above
2. Apositive/AntibodyNeg/HBSAG POS/RI/RPR NR/HIV neg/GBS pos
3. HBSAG POS:eAG neg, wnl lfts, viral load undetectable.
4. ERA Low Risk FFS WNL

POBHX:
G1P0

PGYNHX: 
1. Reg cycles
2. No STDS
3. No abnl paps

PMHX:
1. Hepatitis B as above

PSHX:
1. Left Hip Fx with MVA age ___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Exam on Admission:
Well Appearing NAD
BP 109/61 HR ___
FHR REactive Negative CST No decels
Toco q ___ mild
Cor RRR
Lungs CTAB
Abd Gravid NT
SVE Per RN ___
Ext No cords

Exam on Discharge:
Well Appearing NAD
AFVSS
CV RRR
Lungs CTAB
Abd NT, ff<U
GU min bleeding on pad
Ext No cords

 
Pertinent Results:
___ 08:00PM BLOOD WBC-7.9 RBC-2.66* Hgb-8.5* Hct-24.9* 
MCV-94 MCH-31.8 MCHC-34.0 RDW-15.4 Plt ___
___ 10:50AM BLOOD WBC-7.5 RBC-2.24* Hgb-7.0* Hct-21.1* 
MCV-94 MCH-31.2 MCHC-33.1 RDW-15.0 Plt ___
___ 11:35AM BLOOD Hct-25.3*
___ 06:09AM BLOOD WBC-8.9 RBC-2.29*# Hgb-7.3*# Hct-22.3*# 
MCV-98 MCH-32.0 MCHC-32.8 RDW-14.8 Plt ___
___ 01:13PM BLOOD WBC-10.0 RBC-3.41* Hgb-11.0* Hct-32.5* 
MCV-95 MCH-32.1* MCHC-33.7 RDW-14.6 Plt ___
___ 02:00PM BLOOD WBC-9.1 RBC-4.30 Hgb-13.8 Hct-40.9 MCV-95 
MCH-32.0 MCHC-33.6 RDW-14.7 Plt ___
___ 06:09AM BLOOD Neuts-78.6* Lymphs-13.6* Monos-6.8 
Eos-0.8 Baso-0.2
 
Brief Hospital Course:
Patient is a ___ G1P1 admitted to obstetrics who delivered by 
primary low transverse cesarean for arrest of dilation and 
chorioamnionitis. Her intrapartum course was complicated by 
chorio, sepsis and post-partum hemorrhage.

For her chorioamnionitis and sepsis she was treated with 
Ampicillin, Gentamycin, and Clindamycin until 24 hours afebrile 
and clinically resolved. 

Regarding her postpartum hemorrhage, her intraoperative course 
was complicated by uterine atony and her total EBL was 1400cc. 
She was treated with 20units of pitocin, cytotec, methergine and 
hemabate intraoperatively with resolution of her atony. Please 
see operative report for full details. Post-operatively her 
hematocrit nadired at 21.1 on POD#2 and she received 1 unitPRBC 
for symptomatic blood loss anemia. Her post-transfusion hct was 
24.9 and her symptoms were improved.

The remainder of her postpartum course was uncomplicated and she 
was felt to be safe to be discharged to home on ___.

 
Medications on Admission:
PNV
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*2
2. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice daily Disp #*60 Tablet Refills:*2
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*2
4. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every 4 hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p primary cesarean
chorioamnionitis s/p antibiotics
s/p postpartum hemorrhage, blood loss anemia, s/p 1 unit pRBC 
transfusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see nursing sheets
 
Followup Instructions:
___